US09315467B2
Preparation of 4-[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-benzoic acid (Compound 5)
Part B. A solution of ethyl 4-[2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-benzoate in THF-water-ethanol (2 mL/2 mL/1 mL) is treated with lithium hydroxide hydrate (60 mg) and stirred for 12 h. The solution is evaporated, and the residue is partitioned between 1 M aq. HCl and ethyl acetate. The organic phase is washed with water (20 mL), dried over magnesium sulfate, filtered and evaporated to afford the title compound as a white solid (65 mg, 41%), m.p. 262-264° C. 1H NMR (300 MHz, acetone-d6): δ 8.96 (1H, d, J=6 Hz), 8.48 (2H, d, J=9 Hz), 8.23 (2H, d, J=9 Hz), 8.12 (2H, d, J=9 Hz), 7.98 (1H, d, J=6 Hz), 7.44 (2H, d, J=9 Hz), 3.02 (1H, heptet, J=7 Hz), 1.33 (6H, d, J=7 Hz). MS (ES+): m/e 320 (20), 319 (100). MS (ES−): m/e 318 (20), 317 (100).

reactant | ethyl 4-[2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-benzoate | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=N1)C1=CC=C(C(=O)OCC)C=C1 | C22H22N2O2
reactant | lithium hydroxide hydrate | 60 mg | O.[OH-].[Li+]
solvent | THF water ethanol | 2 mL | C1CCOC1.O.C(C)O
product | 4-[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-benzoic acid | 65 mg, 41% | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=N1)C1=CC=C(C(=O)O)C=C1 | C20H18N2O2
